US08404692B2
3-{3-[4-(6,8-Dimethyl-1-oxo-1,2,3,4-tetrahydro-pyrrolo[1,2-a]pyrazin-7-yl)-pyrimidin-2-ylamino]-phenyl}-N,N-dimethyl-propionamide
By reaction of Example I-27 4-[4-(6,8-Dimethyl-1-oxo-1,2,3,4-tetrahydro-pyrrolo[1,2-a]pyrazin-7-yl)-pyrimidin-2-ylamino]-3-methoxy-benzoic acid and 4-amino-1-methylpiperidine as described above but using TBTU as the coupling agent.

reactant | 4-[4-(6,8-Dimethyl-1-oxo-1,2,3,4-tetrahydro-pyrrolo[1,2-a]pyrazin-7-yl)-pyrimidin-2-ylamino]-3-methoxy-benzoic acid | CC1=C(C(=C2N1CCNC2=O)C)C2=NC(=NC=C2)NC2=C(C=C(C(=O)O)C=C2)OC | C21H21N5O4
reactant | 4-amino-1-methylpiperidine | NC1CCN(CC1)C | C6H14N2
reactant | TBTU | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
product | 3-{3-[4-(6,8-Dimethyl-1-oxo-1,2,3,4-tetrahydro-pyrrolo[1,2-a]pyrazin-7-yl)-pyrimidin-2-ylamino]-phenyl}-N,N-dimethyl-propionamide | CC1=C(C(=C2N1CCNC2=O)C)C2=NC(=NC=C2)NC=2C=C(C=CC2)CCC(=O)N(C)C | C24H28N6O2
